US05945422
6-(2,6-Dichlorophenyl)-8-methyl-2-[4-(4-methylpiperazin-1-yl)-butylamino]-8H-pyrido[2,3-d]-pyrimidin-7-one
A mixture of 0.152 g (0.43 mmol) of 6-(2,6-dichlorophenyl)-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one and 0.50 g (2.90 mmol) of 1-(4-aminobutyl)-4-methylpiperazine was heated with stirring in a 170° C. oil bath. After 2 minutes, solution was complete. After 2 hours, the solution was cooled to room temperature, and the dark gum was dissolved in 25 mL of ether. The solution was washed with 4×5 mL of water. Most of the color went into the water wash. The ether solution was dried over potassium carbonate, filtered, and concentrated to ca. 2 mL volume. The crystals that separated on inducement were filtered and washed with ether; wt 0.063 g; mp 130-132° C.;

reactant | 6-(2,6-dichlorophenyl)-8-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.43 mmol, 0.152 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C | C15H11Cl2N3OS
reactant | 1-(4-aminobutyl)-4-methylpiperazine | 2.90 mmol, 0.50 g | NCCCCN1CCN(CC1)C | C9H21N3
solvent | ether | 25 mL | CCOCC | C4H10O
product | 6-(2,6-Dichlorophenyl)-8-methyl-2-[4-(4-methylpiperazin-1-yl)-butylamino]-8H-pyrido[2,3-d]-pyrimidin-7-one | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)NCCCCN2CCN(CC2)C)N(C1=O)C | C23H28Cl2N6O
